US05876756
(S,S)-4-[2-(4-guanidinobenzoyl)amino-3-(4-methoxyphenyl)propionyl)-3-[3-(4-guanidinobenzoyl)aminopropyl]-2-oxopiperazine-1-acetic acid hydrochloride
In 5 ml of methanol was dissolved 250 mg of (S,S)-3-(3-aminopropyl)-4-[2-benzyloxycarbonylamino-3-(4-methoxyphenyl)propionyl]-2-oxopiperazine-1-acetic acid produced in Reference Example 77. To the solution was added 100 mg of 10% Pd-C, and the mixture was stirred for one hour at room temperature in a hydrogen atmosphere. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure to leave an oily substance. The oily substance was dissolved in a mixture of 10 ml of dioxane and 10 ml of water. To the solution was added 210 mg of sodium hydrogencarbonate and 450 mg of 4-guanidinobenzoic acid 3,5-dioxo-4-azatricyclo[5,2,1,0 2,6]deca-8-en-4-ylester. The mixture was stirred for one hour at room temperature. The pH of the reaction mixture was adjusted to 3 with 1N HCl, then dioxane was distilled off under reduced pressure. The remaining aqueous solution was subjected to CHP-20 column chromatography. The fraction eluted with 10% acetonitrile/water was freeze-dried to afford 130 mg of the title compound as an amorphous powdery product.

reactant | (S,S)-3-(3-aminopropyl)-4-[2-benzyloxycarbonylamino-3-(4-methoxyphenyl)propionyl]-2-oxopiperazine-1-acetic acid | 250 mg | NCCC[C@H]1C(N(CCN1C([C@H](CC1=CC=C(C=C1)OC)NC(=O)OCC1=CC=CC=C1)=O)CC(=O)O)=O | C27H34N4O7
reactant | hydrogen | [H][H] | H2
reactant | sodium hydrogencarbonate | 210 mg | C(O)([O-])=O.[Na+]
reactant | 4-guanidinobenzoic acid 3,5-dioxo-4-azatricyclo[5,2,1,0 2,6]deca-8-en-4-ylester | 450 mg | O=C1C2C3C=CC(C2C(N1OC(C1=CC=C(C=C1)NC(=N)N)=O)=O)C3 | C17H16N4O4
reactant | HCl | 1N | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | water | 10 ml | O | H2O
catalyst | Pd-C | 100 mg | [Pd] | Pd
product | (S,S)-4-[2-(4-guanidinobenzoyl)amino-3-(4-methoxyphenyl)propionyl)-3-[3-(4-guanidinobenzoyl)aminopropyl]-2-oxopiperazine-1-acetic acid hydrochloride | 130 mg | Cl.N(C(=N)N)C1=CC=C(C(=O)N[C@H](C(=O)N2[C@H](C(N(CC2)CC(=O)O)=O)CCCNC(C2=CC=C(C=C2)NC(=N)N)=O)CC2=CC=C(C=C2)OC)C=C1 | InChI=1S/C35H42N10O7.ClH/c1-52-26-14-4-21(5-15-26)19-27(43-31(49)23-8-12-25(13-9-23)42-35(38)39)32(50)45-18-17-44(20-29(46)47)33(51)28(45)3-2-16-40-30(48)22-6-10-24(11-7-22)41-34(36)37;/h4-15,27-28H,2-3,16-20H2,1H3,(H,40,48)(H,43,49)(H,46,47)(H4,36,37,41)(H4,38,39,42);1H/t27-,28-;/m0./s1
